US06194426B1
1.33 g of methyl propionate are added to a solution of 3.01 g of para-toluenesulphonyl chloride in 17 cm3 of dichloromethane. A solution of the triethylamine salt of N-nicotinoylpiperidine-2-carboxylic acid in 17 cm3 of dichloromethane, prepared from 3.38 g of N-nicotinoylpiperidine-2-carboxylic acid and 2 cm3 of triethylamine, is added slowly with stirring. 2.3 cm3 of triethylamine are then added slowly. The mixture is kept at 25° C. with stirring overnight at ambient temperature. The reaction mixture is concentrated at reduced pressure (2.7 kPa) at a temperature close to 40° C. A residue is thus obtained, which is taken up in 25 cm3 of ethyl acetate and filtered. The filtrate is concentrated at reduced pressure (2.7 kPa) at a temperature close to 40° C. This residue is taken up again in 25 cm3 of ethyl acetate and filtered and then the filtrate is concentrated to dryness. The residue is crystallized from 15 cm3 of ethyl ether. The solid is filtered off and dried in air. 1.1 g of methyl 3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carboxylate are thus obtained in the form of a cream solid melting at 122° C., containing approximately 5% of methyl 3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-2-carboxylate.

reactant | methyl propionate | 1.33 g | C(CC)(=O)OC | C4H8O2
reactant | para-toluenesulphonyl chloride | 3.01 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | N-nicotinoylpiperidine-2-carboxylic acid | C(C1=CN=CC=C1)(=O)N1C(CCCC1)C(=O)O | C12H14N2O3
reactant | N-nicotinoylpiperidine-2-carboxylic acid | 3.38 g | C(C1=CN=CC=C1)(=O)N1C(CCCC1)C(=O)O | C12H14N2O3
reactant | triethylamine | 2 cm3 | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 2.3 cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 17 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 17 cm3 | ClCCl | CH2Cl2
solvent | ethyl acetate | 25 cm3 | C(C)(=O)OCC | C4H8O2
product | methyl 3-(3-pyridyl)-5,6,7,8-tetrahydroindolizine-1-carboxylate | 1.1 g | N1=CC(=CC=C1)C1=CC(=C2CCCCN12)C(=O)OC | C15H16N2O2
